US04051248
trans-8-[[2,3-Dihydro-1-(formyloxy)-5,6-dimethoxy-1H-inden-2-yl]methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one
To 0.11 mole of a stirred formic acid-acetic anhydride mixture (prepared as described in Rec. Trav. Chem., 83, 1287 (1964) is added 0.10 mole of trans-8-[(2,3-dihydro-1-hydroxy-5,6-dimethoxy-1H-inden-2-yl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one. The temperature of the reaction mixture is maintained below 20° C and stirring is continued for 12 days under argon. The reaction mixture is then poured, with stirring, into excess ice-cold aqueous sodium bicarbonate, extracted with ether and the ether extracts dried with anhydrous sodium sulfate. The ether is evaporated and the residue is crystallized from cyclohexane to give the title compound.

reactant | formic acid-acetic anhydride | 0.11 mole | C(C)(=O)OC=O | C3H4O3
reactant | trans-8-[(2,3-dihydro-1-hydroxy-5,6-dimethoxy-1H-inden-2-yl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 0.10 mole | O[C@H]1[C@@H](CC2=CC(=C(C=C12)OC)OC)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C25H31N3O4
product | trans-8-[[2,3-Dihydro-1-(formyloxy)-5,6-dimethoxy-1H-inden-2-yl]methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | C(=O)O[C@H]1[C@@H](CC2=CC(=C(C=C12)OC)OC)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C26H31N3O5
